US06235731B1
2) Synthesis of N-[1-[3-(4-ethoxycarbonylphenoxy)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride
To a solution of 329.7 mg (0.65 mmol.) of N-[1-[3-(4-ethoxycarbonylphenoxy)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (5 ml) was added, at room temperature, 2 ml (24 mmol.) of 12N hydrochloric acid. The mixture was stirred for one hour. The resulting crystalline precipitate was collected by filtration, followed by washing with ethanol and diethyl ether to afford the object compound (369.8 mg, 98%) as orange crystals.

reactant | N-[1-[3-(4-ethoxycarbonylphenoxy)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 0.65 mmol, 329.7 mg | C(C)OC(=O)C1=CC=C(OCCCN2CCC(CC2)NC(=O)C2=CC3=CN=C4C=CC=C(S2)N43)C=C1 | C27H30N4O4S
reactant | hydrochloric acid | 24 mmol, 12N, 2 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-[1-[3-(4-ethoxycarbonylphenoxy)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | 369.8 mg, 98% | Cl.Cl.C(C)OC(=O)C1=CC=C(OCCCN2CCC(CC2)NC(=O)C2=CC3=CN=C4C=CC=C(S2)N43)C=C1 | InChI=1S/C27H30N4O4S.2ClH/c1-2-34-27(33)19-7-9-22(10-8-19)35-16-4-13-30-14-11-20(12-15-30)29-26(32)23-17-21-18-28-24-5-3-6-25(36-23)31(21)24;;/h3,5-10,17-18,20H,2,4,11-16H2,1H3,(H,29,32);2*1H
